US05332743
To an ice-cooled solution of 1-(3-cyanobenzyl)-4-(2-methoxyphenyl)piperazine (16.5 g, 53.7 mmol) in 800 mL of tetrahydrofuran was added a solution of phenylmagnesium bromide in ethyl ether (53.6 mL, 3.0M) under nitrogen. The solution was slowly warmed to 25° C. and then brought to reflux. After 8 h of reflux, the reaction mixture was subsequently cooled to 0° C., and ice cold 6N HCl solution (650 mL) was added. The reaction mixture was then stirred at ambient temperature for 8 h. After cooling, the reaction mixture was poured into a separatory funnel and washed with ether. The aqueous layer was then basified with K2CO3 and then extracted with chloroform. The organic extracts were combined, dried (Na2SO4), and concentrated to provide a dark brown oil. This material was purified on a Waters Delta Prep 3000 LC apparatus (10% hexaneschloroform) to afford 19.4 g (93%) of desired benzophenone as a brown oil whose 1H NMR in CDCl3 was consistent with the desired structure.

reactant | 1-(3-cyanobenzyl)-4-(2-methoxyphenyl)piperazine | 53.7 mmol, 16.5 g | C(#N)C=1C=C(CN2CCN(CC2)C2=C(C=CC=C2)OC)C=CC1 | C19H21N3O
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | tetrahydrofuran | 800 mL | O1CCCC1 | C4H8O
solvent | ethyl ether | 3.0M, 53.6 mL | C(C)OCC | C4H10O
product | benzophenone | 19.4 g, 93% | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
